US05530026
Preparation of 5-[3-(2-chloroethyl)ureido]indole
To a solution of 2 g of 5-aminoindole in 125 mL of anhydrous acetone is added dropwise 1.25 g of 2-chloroethyl isocyanate. This solution was stirred for 16 h at room temperature, cooled at °20° C., and filtered. The solvent is evaporated and the residue was crystallized from methanol and washed with ether to give a brownish solid, yield 30%, mp 159°-161° C.

reactant | 5-aminoindole | 2 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 2-chloroethyl isocyanate | 1.25 g | ClCCN=C=O | C3H4ClNO
solvent | acetone | 125 mL | CC(=O)C | C3H6O
product | 5-[3-(2-chloroethyl)ureido]indole | yield 30% | ClCCNC(NC=1C=C2C=CNC2=CC1)=O | C11H12ClN3O
